US08378104B2
Step A: 5-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine
A solution of 3-bromo-5-chlorothieno[2,3-c]pyridine (74.6 mg, 0.300 mmol), bis(pinacolato)diboron (114 mg, 0.450 mmol), potassium acetate (58.9 mg, 0.600 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (12.2 mg, 0.0150 mmol) in 1,4-dioxane (1.5 mL) was heated to 85° C. under a nitrogen atmosphere for 16 h. The reaction mixture was concentrated in vacuo, and was then purified by ISCO chromatography (0 to 35% EtOAc:heptane) to afford 51 mg (58%) of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 8.92-8.93 (m, 1 H), 8.33 (s, 1 H), 8.23 (d, J=1.2 Hz, 1 H), 1.39 (s, 12 H); MS (ESI): 296.06 [M+H]+; HPLC tR=1.75 min (TOF: polar—3 min).

reactant | 3-bromo-5-chlorothieno[2,3-c]pyridine | 0.300 mmol, 74.6 mg | BrC1=CSC2=CN=C(C=C21)Cl | C7H3BrClNS
reactant | bis(pinacolato)diboron | 0.450 mmol, 114 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.600 mmol, 58.9 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine | 51 mg, 58% | ClC=1C=C2C(=CN1)SC=C2B2OC(C(O2)(C)C)(C)C | C13H15BClNO2S
